US08377949B2
(S)-2-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-6-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-hexanoic acid
To a solution of (S)-2-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-6-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-hexanoic acid methyl ester (124 mg, 0.26 mmol) in dioxane (2.5 ml) is added a solution of LiOH monohydrate (50 mg, 1.19 mmol) in H2O (2.5 mL). The solution is stirred at 60° C. for 4 hours. The reaction mixture is allowed to cool to room temperature, quenched with 4M HCl in dioxane (500 μL) and concentrated. The resulting residue is triturated with H2O and MeOH to afford the title compound. LCMS (ESMS): m/z 464.87 (M+H+)

reactant | (S)-2-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-6-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-hexanoic acid methyl ester | 0.26 mmol, 124 mg | COC([C@H](CCCC)N1C(N(C2=CC=C(C=C2C1=O)OC)CC1=CN(C2=CC=CC(=C12)C)C)=O)=O | C27H31N3O5
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 2.5 mL | O | H2O
product | (S)-2-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-6-methoxy-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-hexanoic acid | CN1C=C(C2=C(C=CC=C12)C)CN1C(N(C(C2=CC(=CC=C12)OC)=O)[C@H](C(=O)O)CCCC)=O | C26H29N3O5
